US08058441B2
1-Acetyl-6-(2-furoyl)amino-1,2,3,4-tetrahydro-4-toloyl-2,2,4-trimethylquinoline
Acylation of 1-acetyl-6-amino-4-toloyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (10 mg) with 2-furoyl chloride (8.1 mg) and N,N-diisopropylethylamine (20 μl) in tetrahydrofuran (1 ml) was performed according to the method described in example 6.

reactant | 1-acetyl-6-amino-4-toloyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 10 mg | C(C)(=O)C1(CC=C(C=C1N)C(=O)N1C(CC(C2=CC=CC=C12)C)(C)C)C | C22H28N2O2
reactant | 2-furoyl chloride | 8.1 mg | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | N,N-diisopropylethylamine | 20 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 1-Acetyl-6-(2-furoyl)amino-1,2,3,4-tetrahydro-4-toloyl-2,2,4-trimethylquinoline | C(C)(=O)C1(CCC(C=C1NC(=O)C=1OC=CC1)C(=O)C=1C(NC2=CC=CC=C2C1C)(C)C)C | C27H30N2O4
